US04283539
2-Methyl-1-oxo-3-indane Acetic Acid
2-Phenylbutane-1,3-dicarboxylic acid (Swan, J. Chem. Soc., 1955, 1039) (20.0 g, 90.0 mmol) was dissolved in 300 ml. concentrated sulfuric acid and heated at 100° for 24 hr. The hot solution was poured onto 1 kg ice and the mixture extracted with 5×250 ml. ether. The ether phases were washed with brine, dried over magnesium sulfate, filtered, and vacuum evaporated to yield a pale yellow syrup 14.6 g. (79%), m/e 222. The NMR spectrum indicated the presence of only one major isomer as evidenced by a single upfieled doublet, assigned to the 2-methyl substituent, and small amounts of three other isomers.

reactant | 2-Phenylbutane-1,3-dicarboxylic acid | 90.0 mmol, 20.0 g | C1(=CC=CC=C1)C(CC(=O)O)C(C)C(=O)O | C12H14O4
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
product | 2-Methyl-1-oxo-3-indane Acetic Acid | 14.6 g | CC1C(C2=CC=CC=C2C1CC(=O)O)=O | C12H12O3
